US03950333
Reacting 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine with cysteamine hydrochloride by the procedure of Example 1 gives 3-[(2-aminoethyl)thiomethyl]-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine.

reactant | 3-hydroxymethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | OCC1=NC=C2N1CCCC2 | C8H12N2O
reactant | cysteamine hydrochloride | Cl.NCCS
product | 3-[(2-aminoethyl)thiomethyl]-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | NCCSCC1=NC=C2N1CCCC2 | C10H17N3S
